US07687490B2
Toluene (9 ml), 1.42 ml of N,N-diisopropylethylamine, and 0.56 ml of chloromethyl chloroformate were added in that order to 870 mg of N-isobutylisopropylamine, and the mixture was stirred at room temperature for 16 hr. 1 N hydrochloric acid (15 ml) was added thereto, followed by separation. The organic layer was washed with 15 ml of a 5% aqueous sodium hydrogencarbonate solution and 15 ml of 20% brine, was dried over anhydrous magnesium sulfate, and was filtered. The solvent was removed by distillation under the reduced pressure to give 1.23 g of chloromethyl N-isobutyl-N-isopropylcarbamate.

reactant | N,N-diisopropylethylamine | 1.42 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl chloroformate | 0.56 ml | ClC(=O)OCCl | C2H2Cl2O2
reactant | N-isobutylisopropylamine | 870 mg | C(C(C)C)NC(C)C | C7H17N
reactant | hydrochloric acid | 1 N, 15 ml | Cl | ClH
solvent | Toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
product | chloromethyl N-isobutyl-N-isopropylcarbamate | 1.23 g | C(C(C)C)N(C(OCCl)=O)C(C)C | C9H18ClNO2
